* source AMP
X_U1         N00225 N00194 +3.3 0 N00185 lmv321/NS
V_V1         +3.3 0 3.3vdc
R_R1         0 N00194  1k TC=0,0 
V_V2         N00225 0 0.01Vdc
X_R2         N00194 N00194 N00185 POT PARAMS: SET={RPOT} VALUE=100K
.PARAM  rpot=0.5
