* source VENT
V_V1         N00147 0  
+PULSE 0 3.3 0 1n 1n {pulse_width} 12.5u
X_U1         N01666 N00147 0 2N7002
V_V2         +12V 0 12Vdc
L_L1         N011480 +12V  10uH  
R_R2         N01666 N011480  150 TC=0,0 
C_C1         0 N01666  100n  TC=0,0 
.PARAM  pulse_width=1u
